Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
Chief Complaint:
Code stroke
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
EU Critical ___ (aka ___ is an ___ year-old 
right-handed woman with HTN, HLD, chronic back pain, ?paranoid 
schizophrenia on seroquel who presents after an episode of 
unresponsiveness this evening, transferred from OSH after CT 
head showed possible SAH.

She was in her usual state of health this morning.  At baseline 
she lives with her husband and daughter, she is independent in 
ADLS, normally fully oriented, conversational in ___ and 
___, ambulatory without assistance.  Her family took her to a 
restaurant around 5PM today and while she was eating dinner, 
initially seemed withdrawn and uninterested in the food when it 
arrived to the table.  Around 5:30PM she slumped over to the 
left and became less verbal, closed her eyes and no longer 
followed commands.  The grandson thinks she may have had ___ 
seconds of brief bilateral arm flexion but no prolonged 
convulsions, tongue-biting, urinary incontinence.  Although she 
was not following commands or speaking, she was moving the arms 
and legs antigravity spontaneously with no apparent focal 
weakness.  

EMS was alerted taken to ___ where she was 
minimally verbal, reverted to speaking mostly in ___, but 
without apparent focality.  VS on arrival T- 98.1 BP-128/55 
HR-51, RR-16 Spo2-98%. There was initial concern that she was 
not able to protect her airway but on prepping her for possible 
intubation, she open eyes and became more responsive.  Urgent CT 
head showed possible trace convexal SAH in the parietal sulcus 
versus artifact and the patient was transferred to ___ for 
urgent MRI.

On arrival to BI VS BP- awake moving all extremities 
antigravity. Due to unclear history of bleed versus stroke, a 
Code Stroke was alerted.  No family was available to verify the 
history and initial report was that she was ___ 
only, and as she was minimally verbal, and not following 
commands, her exam was poor.  She went for urgent CT/CTA/CTP and 
those studies redemonstrated the subtle right parietal SAH.  She 
has a diminutive left vertebral artery but otherwise on review 
with Radiology no obvious occlusion, stenosis or evidence of 
top-of-the-basilar syndrome.  LP was recommended in the ED to 
confirm SAH.  When family did finally arrive to the ED around 
1:30PM she was following simple commands for then to open eyes, 
squeeze hand, wiggle toes.  She said "I love ___ to her 
grandson in ___. Despite improvement, still nowhere near her 
baseline per family.

Of note she had a recent admit to ___ in ___ for 
intermittent chest pain. At that time endorsed a period of ___ 
weeks prior to admission with poor medication compliance.  
Cardiology was consulted, trops were negative, normal EKG, 
ultimately felt non-cardiac.

A detailed ROS is not possible due to mental status.  Family 
notes that she had not been feeling unwell recently, no 
fevers/chills, HA, nausea/vomiting or neck stiffness.  Her only 
complain in the past few days was of back pain, which is chronic 
for her.
 
Past Medical History:
-HTN
-HLD
-CHF/edema, previously on furosemide
-Paranoid schizophrenia. had been on standing haldol for ___ 
years, 2 weeks ago switched to seroquel by her psychiatrist due 
to "stiffness."
-Anxiety disorder
-GERD
-remote hx of ORIF for Colles' fracture, fractured left elbow
-chronic costochondritis
 
Social History:
___
Family History:
Mother died at ___, unknown cause.  Father died at age ___, 
cardiac complications.  Brother and daughter with diabetes. No 
family history of stroke or seizure.

 
Physical Exam:
ADMISSION EXAM:
Physical Exam:
Vitals: T: 98  P: 60  R: 16  BP: 120s-130s/50-70s   SaO2: 100%
___: Eyes closed, not following commands.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: eyes closed, grimaces to noxious and briefly
opens eyes.  Not following commands in ___ or ___.  No
spontaneous speech initially.

-Cranial Nerves:
II, III, IV, VI:  PERRL 2 to 1.5mm and brisk. Gaze midline,
conjugate, appears to look from side to side.  BTT bilaterally
V: Corneals present bilaterally.
VII: No facial droop
VIII: VOR intact
IX, X: XI: cough/gag
XII: Tongue midline.

-Motor: Normal bulk, tone throughout. She moves arms and legs
symmetrically, briefly antigravity.  On passive movement of arms
and legs she resists with equal strength.   

-Sensory: Withdraws briskly to noxious x4, grimaces

-DTRs:
  Bi Tri ___ Pat Ach
L  1  1    1    1   0
R  1  1    1    1   0
Plantar response was flexor bilaterally.

-Coordination/Gait: Could not assess 

REPEAT EXAM @ 2300 when family arrived
Opening eyes on command in ___, sticks out tongue, squeezes
hands and wiggles toes when family asks.  Nods that she feels
tired.  Tells grandson "I love ___ (family notes is slurred
compared to baseline).  Now holding arms and legs antigravity at
least 5 seconds.  No focality.

DISCHARGE EXAM:
awake, alert, quite paranoid and exam quite limited by 
cooperation; cranial nerves grossly intact, moves all 
extremities symmetrically. gait is wide based but steady.
 
Pertinent Results:
ADMISSION LABS:
___ 09:57AM BLOOD Neuts-79.8* Lymphs-14.5* Monos-4.9 
Eos-0.5 Baso-0.3
___ 09:47PM BLOOD ___ PTT-25.2 ___
___ 09:57AM BLOOD Glucose-108* UreaN-21* Creat-1.3* Na-140 
K-4.0 Cl-103 HCO3-25 AnGap-16
___ 09:57AM BLOOD ALT-20 AST-20 AlkPhos-59 TotBili-0.9
___ 09:57AM BLOOD Calcium-9.4 Phos-2.4* Mg-2.6 Cholest-209*
___ 09:57AM BLOOD CK-MB-2 cTropnT-<0.01
___ 09:57AM BLOOD CK-MB-2 cTropnT-<0.01
___ 09:47PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 09:47PM URINE Blood-SM  Nitrite-NEG Protein-30 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 09:47PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG mthdone-NEG

STROKE RISK FACTORS:
___ 09:57AM BLOOD Cholest-209*
___ 09:57AM BLOOD Triglyc-73 HDL-94 CHOL/HD-2.2 LDLcalc-100
___ 09:57AM BLOOD %HbA1c-5.8 eAG-120
___ 09:57AM BLOOD TSH-1.9

IMAGING:
 
Brief Hospital Course:
___ presented to an outside hospital after 
becoming unresponsive at a restaurant with persistent 
unresponsiveness. There a CT head was concerning for R parietal 
subarachnoid blood and he was transferred to ___. She 
subsequently returned to her baseline, which was alert and quite 
paranoid which interfered with full neurologic examination. A 
broad differential was considered, including seizure, syncope, 
stroke/TIA and psychogenic. Her workup was notable for: LP with 
bland CSF and negative cultures; CTA with atherosclerosis in the 
bilateral vertebral origins and carotid arteries without 
stenosis and LDL was 100; MRI which demonstrated small vessel 
disease but no acute stroke, acute or chronic hemorrhage, or 
evidence of metastasis; EEG which showed no seizures nor 
epileptiform discharges. On telemetry her QTc remained in the 
440-450s while on quetiapine and there was no evidence of 
arrhythmia. Her troponins were negative on admission. Her 
symptoms were thought to be most likely seizure vs. syncope and 
no treatment was started. Her home medications were continued 
and she was discharged home in stable condition.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pravastatin 20 mg PO QPM 
2. Amlodipine 10 mg PO DAILY 
3. Metoprolol Tartrate 25 mg PO BID 
4. Amitriptyline 50 mg PO QHS 
5. QUEtiapine Fumarate 50 mg PO QHS 
6. Lidocaine 5% Patch 1 PTCH TD DAILY:PRN pain 
7. Vitamin D 1000 UNIT PO DAILY 
8. Multivitamins 1 TAB PO DAILY 
9. Cyanocobalamin Dose is Unknown  PO DAILY 

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
2. Metoprolol Tartrate 25 mg PO BID 
3. Multivitamins 1 TAB PO DAILY 
4. QUEtiapine Fumarate 50 mg PO QHS 
5. Vitamin D 1000 UNIT PO DAILY 
6. Pravastatin 20 mg PO QPM 
7. Amitriptyline 50 mg PO QHS 
8. Cyanocobalamin Dose is Unknown  PO DAILY  
9. Lidocaine 5% Patch 1 PTCH TD DAILY:PRN pain 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Episode of unresponsiveness.

Paranoid schizophrenia.
Hypertension.
Hyperlipidemia.

 
Discharge Condition:
Mental Status: Confused - sometimes: paranoid

Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ came to the hospital because of an episode of 
unresponsiveness. We think that ___ may have lost consciousness. 
We have looked for dangerous causes of this episode and have not 
found anything which needs intervention right now. We are not 
certain of the cause of this episode. 
 - It could have been caused by the heart and a temporary 
decrease in the blood going to the brain. We looked for any 
arrhythmias or any evidence of heart attack and did not see any.
 - It could have been caused by seizure, or abnormal electrical 
activity in the brain. We got an EEG which did not show any 
seizures. This does not rule out the possibility that she could 
have had one, but makes it less likely. 
 - It is very unlikely that this was due to a stroke or a 
transient ischemic attack. We did an MRI which showed no acute 
stroke. There was some evidence of chronic changes in the brain 
caused by high blood pressure and cholesterol.
 - Originally there was some concern for blood in the brain, 
also known as subarachnoid hemorrhage. However, the MRI (a more 
sensitive test) did not show any evidence of hemorrhage.

We have not made any changes to your medications. ___ should 
continue to take them as prescribed.

Please follow up with Neurology, your primary care, and your 
psychiatrist as outlined below.

It has been a pleasure taking care of ___.
 
Followup Instructions:
___